### PR TITLE
Formalize the matrix multiplication exponent conjecture

### LINKED ISSUE #5315: Formalize the matrix multiplication exponent conjecture (ω = 2)
The matrix multiplication exponent conjecture states that ω = 2: for every ε > 0, two n × n matrices over ℂ can be multiplied using O(n^(2+ε)) arithmetic operations.

A tensor-rank formulation asks that, for every ε > 0, there exists C > 0 such that the rank of the matrix multiplication tensor is at most C n^(2+ε) for every positive n. The tensor is the coefficient tensor of (A, B, C) ↦ tr(ABC), with three modes of size n².

References:
- Cohn, Kleinberg, Szegedy, and Umans, [Group-theoretic Algorithms for Matrix Multiplication](https://arxiv.org/abs/math/0511460), introduction and §1.1.
- Chiantini, Hauenstein, Ikenmeyer, Landsberg, and Ottaviani, [Polynomials and the exponent of matrix multiplication](https://arxiv.org/abs/1706.05074), §1.

I am preparing a draft formalization using Mathlib's `Holor.cprank`. The existing Green 36 statements concern related sufficient combinatorial conjectures.

### PR DESCRIPTION
**Pull request by Deicyde**
Co-authored by @archiebrowne @FrankieNC 

States ω = 2 over ℂ via tensor-rank growth `O(n^(2+ε))` for every ε > 0.

Adds the rectangular tensor, proves its trace identity and rank bound, and checks 100 coefficients. The arithmetic-complexity equivalence remains an external result, cited from CKSU05/CHILO18.

Validation: `lake --wfail build FormalConjecturesForMathlib FormalConjectures.Paper.MatrixMultiplicationExponent` passed.

Developed with Codex assistance.

Fixes #5315.

### CODE REVIEW

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+private theorem cprank_le_of_cprankMax {ds : List ℕ} {x : Holor R ds} {r : ℕ}
+    (h : CPRankMax r x) : cprank x ≤ r := by
+  classical
+  exact Nat.find_min' _ h
+
+variable (R)
+
+/-- The matrix multiplication tensor $\sum_{i,j,k} e_{ij} \otimes e_{jk} \otimes e_{ki}$.
+Each matrix coordinate $(i,j)$ is encoded by $i n + j$ in a mode of size $n^2$.
+Its trilinear form is $(A,B,C) \mapsto \operatorname{tr}(ABC)$. -/
```
Comment (eric-wieser) [inline FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: Can you add a theorem with this statement in this file?

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+def matrixMulTensor (n : ℕ) : Holor R [n * n, n * n, n * n] :=
```
Comment (eric-wieser) [inline FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: nit: I think this would be clearer expressed as the general `l`, `m`, `n` case, even if you only use the square case in the final theorem.

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+  decide
+
+/-- The matrix multiplication exponent over $\mathbb{C}$ is $2$: for every
+$\varepsilon > 0$, the rank of the $n \times n$ matrix multiplication tensor is
+at most $C n^{2+\varepsilon}$ for all positive $n$, with $C > 0$ depending only on
+$\varepsilon$. See [CKSU05] and the tensor-rank characterization in [CHILO18]. -/
+@[category research open, AMS 15 68]
+theorem matrix_multiplication_exponent_two :
+    ∀ ε > (0 : ℝ), ∃ C > (0 : ℝ), ∀ n : ℕ, 1 ≤ n →
+      (Holor.cprank (Holor.matrixMulTensor ℂ n) : ℝ) ≤ C * (n : ℝ) ^ (2 + ε) := by
```
Comment (eric-wieser) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: nit:
```suggestion
      ((Holor.matrixMulTensor ℂ n).cpRank : ℝ) ≤ C * (n : ℝ) ^ (2 + ε) := by
```

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean (hunk 1 above)
Comment (Deicyde) [reply FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: Added `trilinearEval_matrixMulTensor`.

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean (hunk 2 above)
Comment (Deicyde) [reply FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: Done, generalized to `l`, `m`, `n`.

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean (hunk 3 above)
Comment (Deicyde) [reply FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: Done; pinned Mathlib uses `.cprank`.

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean [hunk 4]
```diff
@@ -0,0 +1,167 @@
...
+    Fin.val_eq_val]
+
+/-- Evaluating the matrix multiplication tensor on the entries of $A$, $B$, and $C$
+gives $\operatorname{tr}(ABC)$. The inverse of `finProdFinEquiv` decodes each
+matrix coordinate into its row and column. -/
+theorem trilinearEval_matrixMulTensor {l m n : ℕ}
+    (A : Matrix (Fin l) (Fin m) R) (B : Matrix (Fin m) (Fin n) R)
+    (C : Matrix (Fin n) (Fin l) R) :
+    trilinearEval (matrixMulTensor R l m n)
+      (fun p ↦ A (finProdFinEquiv.symm p).1 (finProdFinEquiv.symm p).2)
```
Comment (eric-wieser) [inline FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: Perhaps nicer as
```suggestion
      (fun p ↦ Aᵀ.vec (finProdFinEquiv.symm p))
```
which will need a new import and `open scoped Matrix`

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 5]
```diff
@@ -0,0 +1,66 @@
...
+
+/-- All coefficients match $\operatorname{tr}(ABC)$ for $(l,m,n) = (2,3,1)$. -/
+@[category test, AMS 15]
+theorem matrixMulTensor_rectangular_coefficients :
+    ∀ (a : Fin 6) (b : Fin 3) (c : Fin 2),
+      Holor.matrixMulTensor ℤ 2 3 1
+        ⟨[a.val, b.val, c.val], .cons a.isLt (.cons b.isLt (.cons c.isLt .nil))⟩ =
+        if a.val % 3 = b.val ∧ c.val = a.val / 3 then 1 else 0 := by
+  decide
+
```
Comment (eric-wieser) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean:63]: Can you add a test statement that `cprank` is less than or equal to 3?

Comment (Deicyde) [reply FormalConjectures/Paper/MatrixMultiplicationExponent.lean:63]: Added the exponent ≤3 test.

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+/-- The matrix multiplication exponent is at most $3$. -/
+@[category test, AMS 15 68]
+theorem matrix_multiplication_exponent_le_three :
+    ∀ ε > (0 : ℝ), ∃ C > (0 : ℝ), ∀ n : ℕ, 1 ≤ n →
+      ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ) ≤ C * (n : ℝ) ^ (3 + ε) := by
```
Comment (eric-wieser) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: I meant the simpler
```suggestion
    ∀ n : ℕ, 1 ≤ n →
      ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ) ≤ (n : ℝ) ^ 3 := by
```

Comment (Deicyde) [reply FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: Applied thanks!

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+    _ ≤ 1 * (n : ℝ) ^ (3 + ε) := by
+      simpa using Real.rpow_le_rpow_of_exponent_le (y := 3)
+        (show (1 : ℝ) ≤ n by exact_mod_cast hn) (le_add_of_nonneg_right hε.le)
+
+/-- The conjecture $\omega = 2$ over $\mathbb{C}$: tensor rank is $O(n^{2+\varepsilon})$
+for every $\varepsilon > 0$. See [CKSU05] and [CHILO18]. -/
+@[category research open, AMS 15 68]
+theorem matrix_multiplication_exponent_two :
+    ∀ ε > (0 : ℝ), ∃ C > (0 : ℝ), ∀ n : ℕ, 1 ≤ n →
+      ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ) ≤ C * (n : ℝ) ^ (2 + ε) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: Let's use big O notation for this!

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 8]
```diff
@@ -0,0 +1,112 @@
...
+  sorry
+
+/-- The conjecture $\omega = 2$ over $\mathbb{C}$: tensor rank is $O(n^{2+\varepsilon})$
+for every $\varepsilon > 0$. See [CKSU05] and [CHILO18]. -/
+@[category research open, AMS 15 68]
+theorem matrix_multiplication_exponent_two :
+    ∀ ε > (0 : ℝ),
+      (fun n : ℕ ↦ ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ)) =O[atTop]
+        (fun n ↦ (n : ℝ) ^ (2 + ε)) := by
+  sorry
```
Comment (FrankieNC) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean]:
```suggestion
theorem matrix_multiplication_exponent_two {ε : ℝ} (hε : 0 < ε) :
    (fun n : ℕ ↦ ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ)) =O[atTop]
      (fun n : ℕ ↦ (n : ℝ) ^ (2 + ε)) := by
  sorry
```

File: FormalConjectures/Paper/MatrixMultiplicationExponent.lean [hunk 9]
```diff
@@ -0,0 +1,111 @@
...
+    ∀ n : ℕ, 1 ≤ n →
+      ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ) ≤ (n : ℝ) ^ (2.371177 : ℝ) := by
+  sorry
+
+/-- The conjecture $\omega = 2$ over $\mathbb{C}$: tensor rank is $O(n^{2+\varepsilon})$
+for every $\varepsilon > 0$. See [CKSU05] and [CHILO18]. -/
+@[category research open, AMS 15 68]
+theorem matrix_multiplication_exponent_two {ε : ℝ} (hε : 0 < ε) :
+    (fun n : ℕ ↦ ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ)) =O[atTop]
+      (fun n : ℕ ↦ (n : ℝ) ^ (2 + ε)) := by
```
Comment (eric-wieser) [inline FormalConjectures/Paper/MatrixMultiplicationExponent.lean]: Do you think better or worse as:
```suggestion
theorem matrix_multiplication_exponent_two {ε : ℝ} (hε : 2 < p) :
    (fun n : ℕ ↦ ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ)) =O[atTop]
      (fun n : ℕ ↦ (n : ℝ) ^ p) := by
```

File: FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean [hunk 10]
```diff
@@ -0,0 +1,133 @@
...
+  unfold matrixMulTensor
+  simp_rw [← Fintype.sum_prod_type']
+  convert! cprankMax_sum (n := 1) Finset.univ _ ?_ using 1
+  · simp [Nat.mul_assoc]
+  intro p _
+  exact cprankMax_1 (.cons _ _ (.cons _ _ (cprankMax1_singleton _)))
+
+@[simp]
+theorem cprank_matrixMulTensor_zero : (matrixMulTensor R 0 0 0).cprank = 0 :=
+  Nat.eq_zero_of_le_zero (by simpa using cprank_matrixMulTensor_le R 0 0 0)
```
Comment (eric-wieser) [inline FormalConjecturesForMathlib/LinearAlgebra/Matrix/MultiplicationTensor.lean]: Isn't this implied by `matrixMulTensor_zero_right` above? I think this should be written as
```suggestion
@[simp]
theorem cprank_zero : (0 :  Holor R l).cprank = 0 :=
```

**Comment by j2d9w5xtjn-png** [comment]
Reviewed at `f50810ef`. Two of the three `research solved` bounds are false as stated, and the third asserts an open statement — this is the concrete version of the big-O point already made in this thread on L77.

**1. `coppersmith_winograd` and `alphaevolve` are false at `n = 2`.**

Both are pointwise inequalities with implied constant `1`, so they can just be evaluated:

* L91–94: `2 ^ (2.376 : ℝ) = 5.19095…`
* L98–101: `2 ^ (2.371177 : ℝ) = 5.17363…`

but the rank of the `2 × 2` matrix multiplication tensor over `ℂ` is exactly `7` — Strassen (1969) for `≤ 7`, [Winograd, *On multiplication of 2 × 2 matrices*, Linear Algebra Appl. 4 (1971), 381–388](https://doi.org/10.1016/0024-3795(71)90009-7) for `≥ 7`. So both statements read `7 ≤ 5.19…`. And `matrixMulTensor ℂ 2 2 2 : Holor ℂ [4, 4, 4]` is that tensor, with `cprank` the honest CP rank, so nothing rescues them definitionally.

**2. `strassen` (L84–87) is not false, but it is not Strassen's theorem either.**

At `n = 2` it happens to read `7 ≤ 2 ^ Real.logb 2 7 = 7`, so this one survives. But the recursion gives `R⟨2ᵏ, 2ᵏ, 2ᵏ⟩ ≤ 7ᵏ`, and for `n` not a power of two you pad up to the next one and lose a constant: with `2ᵏ < 2n` you get `R⟨n, n, n⟩ ≤ 7 · n ^ log₂ 7`, not `R ≤ n ^ log₂ 7`. At `n = 3` the statement asserts `R⟨3, 3, 3⟩ ≤ 3 ^ log₂ 7 = 21.849…`, i.e. `≤ 21`, which would improve on the best published upper bound of `23` (Laderman 1976). That is open, not `research solved`.

**Suggested shape.** `matrix_multiplication_exponent_two` (L106–109) already has the right form, and it transfers directly. This elaborates against the branch:

```lean
@[category research solved, AMS 15 68]
theorem matrix_multiplication_exponent_strassen :
    (fun n : ℕ ↦ ((Holor.matrixMulTensor ℂ n n n).cprank : ℝ)) =O[atTop]
      (fun n : ℕ ↦ (n : ℝ) ^ (Real.logb 2 7)) := by
  sorry
```

and likewise with `(2.376 : ℝ)` and `(2.371177 : ℝ)`. That is also what the cited sources state: bounds on `ω`, hence on the growth of the rank, not pointwise inequalities.

**Two smaller notes.**

* The `cprank_zero` parse error present at `e7b5392` is fixed by `f50810ef`; `lake build FormalConjectures.Paper.MatrixMultiplicationExponent` is clean for me at the current head.
* L83, L90 and L97 are tagged `AMS 51` (geometry), while L75 and L105 in the same file use `AMS 15 68`. Looks like a typo.

*Reviewed with [Claude Code](https://claude.com/claude-code).*
